US06888032B2
2,5-Dimethylbenzonitrile
An oven dried screw cap test tube was charged with NaCN (93 mg, 1.898 mmol), dried KI (52 mg, 0.313 mmol, 20 mol %) and CuI (30 mg, 0.158 mmol, 10 mol %), evacuated and backfilled with argon three times. 2-Bromo-1,4-dimethylbenzene (215 μL, 1.557 mmol), N,N′-dimethylethylenediamine (165 μL, 1.549 mmol) and anhydrous toluene (1 mL) were added under argon. The tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 24 h. The resulting yellow suspension was cooled to room temperature, 2 mL of ethyl acetate, 1 mL of ammonium hydroxide (30%) and 1 mL of water were added. The mixture was stirred at 25° C. for 10 min, then the organic layer was washed with 1 mL of water and dried over MgSO4. The GC analysis showed consumption of the majority of the starting material, and formation of the title compound (as confirmed by GC-MS).

reactant | NaCN | 1.898 mmol, 93 mg | [C-]#N.[Na+]
reactant | 2-Bromo-1,4-dimethylbenzene | 1.557 mmol, 215 μL | BrC1=C(C=CC(=C1)C)C | C8H9Br
reactant | N,N′-dimethylethylenediamine | 1.549 mmol, 165 μL | CNCCNC | C4H12N2
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
catalyst | CuI | 0.158 mmol, 30 mg | [Cu]I
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 2,5-Dimethylbenzonitrile | CC1=C(C#N)C=C(C=C1)C | C9H9N
